US04569978
A vinylidene fluoride-trifluoroethylene-tetrafluoroethylene terpolymer (60/33/7 wt %) was prepared by a procedure similar to that described in Example 15. The autoclave was charged with 4900 ml of D.I. water, 215 ml of 1% by weight ammonium perfluorodecanoate in D.I. water and 4 grams of a paraffinic wax, closed, evacuated and, with agitation (72 rpm), heated to about 75° C. Approximately 284 grams of 90/10 weight % mixture of VDF and TFE monomer, 140 grams of trifluoroethylene and 40 grams of TCFM were then charged to the autoclave which elevated the pressure to about 650 psig. Polymerization was begun by introducing about 35 ml of the initiator emulsion. Monomers and TCFM were added throughout the reaction in a constant ratio of approximately 4 grams of TCFM and 14 grams of trifluoroethylene per 28.35 grams of VDF-TFE mixture. About 650 grams of VDF-TFE mixture were added during the first hour and about 570 grams of monomer mixture were added during the second hour until a total, including the initial charge, of about 1531 grams of VDF-TFE mixture, 749 grams of trifluoroethylene and 230 grams of TCFM (5.25 mole % based on total monomers) had been added. Additional initiator was added to the reaction in amounts sufficient to maintain the reaction. Approximately 90 ml of additional initiator emulsion were added during the first 3/4 hour following initiation of the reaction. Thereafter, no more initiator was added. The amount of IPP initiator used was equivalent to 1.10 grams per kilogram of total monomers. The recovered latex had a solids content of 30.0% by weight. The latex was coagulated and dried at about 110° C. to produce a powdered terpolymer product. The terpolymer had an apparent melt viscosity of 17,500 poise.

reactant | ammonium perfluorodecanoate | FC(C(=O)[O-])(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F.[NH4+]
reactant | trifluoroethylene | 14 grams | FC=C(F)F | C2HF3
reactant | trifluoroethylene | 749 grams | FC=C(F)F | C2HF3
solvent | water | O | H2O
product | vinylidene fluoride-trifluoroethylene tetrafluoroethylene | FC=C(F)F.C(=C)(F)F.FC(=C(F)F)F | InChI=1S/C2F4.C2HF3.C2H2F2/c3-1(4)2(5)6;3-1-2(4)5;1-2(3)4/h;1H;1H2
